US04988708
4-hydroxy-2-[1-(1-oxopropoxy)-propyl]-N-(2-thiazolyl)-8-(trifluoromethyl)-3-quinoline carboxamide
A suspension of 3 g of 1,3-dihydro-3-ethyl-1-[(2thiazolyl)-imino]-5-(trifluoromethyl)-furo-[3,4-b]-quinolin-9-ol in 60 ml of propionic acid was held in a bath at 100°-110° C. for 2 hours and 50 minutes and the solution obtained was cooled and poured into 600 ml of water. After separating and washing with water, 2.5 g of product were obtained which was purified by crystallization from 40 ml of ethyl acetate. The crystals were cooled and recovered by filtration to obtain 1 7 g of 4-hydroxy-2-[1-(1-oxopropoxy)-propyl] -N-(2-thiazolyl)-8-(trifluoromethyl)-3-quinoline carboxamide melting at 216° C.

reactant | 1,3-dihydro-3-ethyl-1-[(2thiazolyl)-imino]-5-(trifluoromethyl)-furo-[3,4-b]-quinolin-9-ol | 3 g | C(C)C1OC(C=2C1=NC=1C(=CC=CC1C2O)C(F)(F)F)=NC=2SC=CN2 | C17H12F3N3O2S
reactant | water | 600 ml | O | H2O
solvent | propionic acid | 60 ml | C(CC)(=O)O | C3H6O2
product | 4-hydroxy-2-[1-(1-oxopropoxy)-propyl]-N-(2-thiazolyl)-8-(trifluoromethyl)-3-quinoline carboxamide | 2.5 g | OC1=C(C(=NC2=C(C=CC=C12)C(F)(F)F)C(CC)OC(CC)=O)C(=O)NC=1SC=CN1 | C20H18F3N3O4S
